US09227976B2
1-[2-(4-chloro-3,5-diphenyl-pyrazolo[3,4-c]pyridazin-1-yl)ethyl]pyrrolidin-2-one (Compound IIb)
Compound IIb was synthesized from 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine and 1-(2-hydroxyethyl)pyrrolidin-2-one following the general procedure for the Mitsunobu reaction as described above.

reactant | 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2=CC=CC=C2 | C17H11ClN4
reactant | 1-(2-hydroxyethyl)pyrrolidin-2-one | OCCN1C(CCC1)=O | C6H11NO2
product | 1-[2-(4-chloro-3,5-diphenyl-pyrazolo[3,4-c]pyridazin-1-yl)ethyl]pyrrolidin-2-one | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CCN2C(CCC2)=O | C23H20ClN5O
